resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.999081
R2 0 n2 33.645621
R3 0 n4 0.983358
R4 n1 n3 1.019049
R5 n1 n5 0.982541
R6 n2 n3 0.991594
R7 n2 n6 0.995158
R8 n3 n7 0.998577
R9 n4 n5 1.009148
R10 n4 n6 0.981372
R11 n5 n7 0.985478
R12 n6 n7 1.002302
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
